US05229516
D. 6-Hydroxy-α-methyl carbazole-2-acetic acid ethyl ester
A mixture consisting of 6-benzyloxy-α-methyl carbazole-2-acetic acid ethyl ester (7.3 g, 0.0195 mol) and ethanol (130 mL) is subjected to hydrogenation over 10% Pd/c (0.9 g) for 18 hours at 35 psi. The reaction mixture is filtered and concentrated to give 5.0 g product as a foam.

reactant | 6-benzyloxy-α-methyl carbazole-2-acetic acid ethyl ester | 0.0195 mol, 7.3 g | C(C)OC(C(C1=CC=2NC3=CC=C(C=C3C2C=C1)OCC1=CC=CC=C1)C)=O | C24H23NO3
catalyst | Pd | [Pd] | Pd
solvent | ethanol | 130 mL | C(C)O | C2H6O
product | 6-Hydroxy-α-methyl carbazole-2-acetic acid ethyl ester | 5.0 g | C(C)OC(C(C1=CC=2NC3=CC=C(C=C3C2C=C1)O)C)=O | C17H17NO3
